US05155135
2,6-Difluorobenzoyl isocyanate (1.8 g) was added to a solution of N-(4-(2-chloro-4-(trifluoromethyl)phenoxy)-2-fluorophenyl)urea (3.2 g) in dry toluene (50 ml), and the resulting solution was stirred at ambient temperature (20° C.) for 48 hours. The product was then filtered from the reaction mixture, washed with a small amount of 1:2 v/v diethyl ether/light petroleum ether, and dried to yield N-(((((4-(2-chloro-4-(trifluoromethyl)phenoxy)-2-fluorophenyl)-amino)carbonyl)amino)carbonyl)-2,6-difluorobenzamide as a colourless crystalline solid (4.3 g, 90%), mp 190-192° C.

reactant | 2,6-Difluorobenzoyl isocyanate | 1.8 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | N-(4-(2-chloro-4-(trifluoromethyl)phenoxy)-2-fluorophenyl)urea | 3.2 g | ClC1=C(OC2=CC(=C(C=C2)NC(=O)N)F)C=CC(=C1)C(F)(F)F | C14H9ClF4N2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(((((4-(2-chloro-4-(trifluoromethyl)phenoxy)-2-fluorophenyl)-amino)carbonyl)amino)carbonyl)-2,6-difluorobenzamide | 4.3 g, 90% | ClC1=C(OC2=CC(=C(C=C2)NC(=O)NC(=O)NC(C2=C(C=CC=C2F)F)=O)F)C=CC(=C1)C(F)(F)F | C22H12ClF6N3O4
